US07592373B2
4.1.c. (2,4-dichlorophenyl)propynoic acid chloride
A reaction mixture of 0.34 g (1.58 mmol) of (2,4-dichlorophenyl)propynoic acid and 0.14 mL (1.9 mmol) of thionyl chloride in 15 mL of absolute toluene is stirred for 3 hours at 70° C. and then evaporated down. The residue is taken up in absolute toluene and the solution is evaporated to dryness. This procedure is then repeated once more and the residue is further reacted in its crude state.

reactant | (2,4-dichlorophenyl)propynoic acid | 1.58 mmol, 0.34 g | ClC1=C(C=CC(=C1)Cl)C#CC(=O)O | C9H4Cl2O2
reactant | thionyl chloride | 1.9 mmol, 0.14 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | (2,4-dichlorophenyl)propynoic acid chloride | ClC1=C(C=CC(=C1)Cl)C#CC(=O)Cl | C9H3Cl3O
